US04198527
To a solution of 3.92 g (20 mmol) of phenylthiomethyltrimethylsilane in 10 ml THF at 0° is added 20 ml n-butyllithium in hexane. The resulting yellow solution is stirred for 15 min at 0°, and a solution of 1.44 g (20 mmol) of 2-methyl-1-propanal in 5 ml THF is added. The reaction mixture is stirred for 15 min at 0°, then for 2 hr at 25°. Brine (15 ml) is added and the product extracted with ether. The organic layer is dried over calcium sulfate, filtered and the solvent is removed under vacuum to give 2-methyl-1-propenyl phenyl sulfide, which is purified by distillation under vacuum.

reactant | phenylthiomethyltrimethylsilane | 20 mmol, 3.92 g | C1(=CC=CC=C1)SC[Si](C)(C)C | C10H16SSi
reactant | n-butyllithium | 20 ml | C(CCC)[Li]
reactant | 2-methyl-1-propanal | 20 mmol, 1.44 g | CC(C=O)C | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Brine | 15 ml | [Cl-].[Na+].O
product | 2-methyl-1-propenyl phenyl sulfide | C1(=CC=CC=C1)SC=C(C)C | C10H12S
